US08877782B2
N-(1-Cyano-cyclopropyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 191, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.32 mmol) was converted, using 1-amino-1-cyclopropanecarbonitrile instead of 2-aminoethyl isopropylether, to the title compound (61 mg, 51%) which was obtained as a white solid. MS: m/e=375.2 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 1-amino-1-cyclopropanecarbonitrile | NC1(CC1)C#N | C4H6N2
product | N-(1-Cyano-cyclopropyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 61 mg, 51% | C(#N)C1(CC1)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C21H18N4O3
